US07402680B2
1-Benzyl-3-(4-bromo-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (0.38 g) was prepared from 0.66 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 300 μL of benzylamine, and 0.63 g of 1-bromo-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C20H19BrN2, 366.07; found, m/z 367.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.51-7.48 (m, 2H), 7.36-7.32 (m, 2H), 7.30-7.25 (m, 3H), 7.19-7.16 (m, 2H), 5.14 (s, 2H), 4.35 (s, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.87 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.66 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-bromo-4-(2-nitro-vinyl)-benzene | 0.63 g | BrC1=CC=C(C=C1)C=C[N+](=O)[O-] | C8H6BrNO2
solvent | benzylamine | 300 μL | C(C1=CC=CC=C1)N | C7H9N
product | 1-Benzyl-3-(4-bromo-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 0.38 g | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)Br | C20H19BrN2
